### PR TITLE
Lemma tval_tcastE

### PR DESCRIPTION
**Pull request by hivert**
##### Motivation for this change

Simple, but the proof is hard to find. Pierre Jouvelot commented on Zulip 

> I vote +1 for the proposal, since I needed it once and Emilio had to show me the proof, which was not obvious to me. It would be useful to beginners.

##### Things done/to do

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md` (do not edit former entries)
- [ ] ~added corresponding documentation in the headers~

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-following,-reviewing-and-playing-with-a-PR#checklist-for-reviewing-a-pr) and make sure there is a milestone.

### CODE REVIEW

File: mathcomp/ssreflect/tuple.v [hunk 1]
```diff
@@ -135,6 +135,10 @@ Proof. by case: n / eq_mn eq_np; case: p /. Qed.
 Lemma tvalK n (t : n.-tuple T) : in_tuple t = tcast (esym (size_tuple t)) t.
 Proof. by apply: val_inj => /=; case: _ / (esym _). Qed.
 
+Lemma tval_tcastE m n (eq_mn : m = n) (t : m.-tuple T) :
```
Comment (CohenCyril) [inline mathcomp/ssreflect/tuple.v:138]:
```suggestion
Lemma tval_tcast m n (eq_mn : m = n) (t : m.-tuple T) :
```

Comment (hivert) [reply mathcomp/ssreflect/tuple.v]: Done the name change

**Review by CohenCyril — APPROVED** [review]
